US05998436
Synthesis of 2,4-diamino-5-fluoropyridine hydrochloride
To 4 ml of methanol having added 400 mg of concentrated hydrochloric acid added thereto was added 350 mg of 2-benzylamino-4-amino-5-fluoropyridine together with 50 mg of 10% palladium on carbon, and the mixture was hydrogenated at 40° C. for 2 days. The catalyst was separated by filtration, and the solvent and the like were distilled off under reduced pressure. Procedure of adding 10 ml of distilled water to the residue and concentrating under reduced pressure was repeated 4 times, and the procedure of adding 10 ml of ethanol and concentrating under reduced pressure was repeated twice. 260 mg of the title compound was obtained as a residue in the form of a yellowish orange paste.

reactant | hydrochloric acid | 400 mg | Cl | ClH
reactant | 2-benzylamino-4-amino-5-fluoropyridine | 350 mg | C(C1=CC=CC=C1)NC1=NC=C(C(=C1)N)F | C12H12FN3
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 4 ml | CO | CH4O
product | 2,4-diamino-5-fluoropyridine hydrochloride | 260 mg | Cl.NC1=NC=C(C(=C1)N)F | InChI=1S/C5H6FN3.ClH/c6-3-2-9-5(8)1-4(3)7;/h1-2H,(H4,7,8,9);1H
